US07939528B2
4-[(3-Methyl-4-nitrophenyl)oxy]benzaldehyde (1.72 g, 6.4 mmol), p-toluenesulfonic acid (120 mg, 0.64 mmol), and ethylene glycol (1.7 mL, 32 mmol) were heated to reflux in 70 mL toluene for 16 hours in a round bottom flask equipped with a Dean-Stark trap. The reaction mixture was cooled to room temperature, diluted with ethylacetate and extracted with 1N NaOH. The organic layer was dried over MgSO4, filtered and concentrated to afford 1.89 g crude 2-{4-[(3-methyl-4-nitrophenyl)oxy]phenyl}-1,3-dioxolane, which was used without further purification.

reactant | 4-[(3-Methyl-4-nitrophenyl)oxy]benzaldehyde | 6.4 mmol, 1.72 g | CC=1C=C(C=CC1[N+](=O)[O-])OC1=CC=C(C=O)C=C1 | C14H11NO4
reactant | p-toluenesulfonic acid | 0.64 mmol, 120 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethylene glycol | 32 mmol, 1.7 mL | C(CO)O | C2H6O2
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 2-{4-[(3-methyl-4-nitrophenyl)oxy]phenyl}-1,3-dioxolane | 1.89 g | CC=1C=C(C=CC1[N+](=O)[O-])OC1=CC=C(C=C1)C1OCCO1 | C16H15NO5
